US07214674B2
8-{1-[2-(7-Fluoro-2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one (E6)
The title compound was prepared from 8-piperidin-4-ylmethyl-4H-benzo[1,4]oxazin-3-one and 5-(2-bromoethoxy)-7-fluoro-2-methylquinoline in a similar manner to Example 1.

reactant | 8-piperidin-4-ylmethyl-4H-benzo[1,4]oxazin-3-one | N1CCC(CC1)CC1=CC=CC=2NC(COC21)=O | C14H18N2O2
reactant | 5-(2-bromoethoxy)-7-fluoro-2-methylquinoline | BrCCOC1=C2C=CC(=NC2=CC(=C1)F)C | C12H11BrFNO
product | 8-{1-[2-(7-Fluoro-2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one | FC1=CC(=C2C=CC(=NC2=C1)C)OCCN1CCC(CC1)CC1=CC=CC=2NC(COC21)=O | C26H28FN3O3
